US08835419B2
Synthesis of 1-(1-(1-(4-chloro-3-((R)-1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidin-4-yl)pyrrolidin-3-yl)urea (see FIG. 21)
To a stirred solution of 1-(1-(4-chloro-3-((R)-1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidin-4-yl)pyrrolidin-3-amine (0.056 g, 0.12 mmol) in THF (1 mL) and acetic acid (1 drop) was added a solution of (trimethylsily)isocyanate (0.015 g, 0.13 mmol) in THF (0.5 mL). The reaction mixture was stirred at room temperature for 30 min. The reaction mixture was quenched with diluted with aqueous saturated sodium bicarbonate and extracted with EtOAc. The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The resulting crude was purified by flash chromatography (SiO2, 2-10% methanol in dichloromethane) to afford the desired product as a white solid (0.016 g, 0.031 mmol, 26%). 1H NMR (400 MHz, CDCl3) δ 7.36-7.32 (m, 2H), 7.16 (dd, J=2.2, 8.4 Hz, 1H), 7.04 (d, J=8.6 Hz, 1H), 6.82 (br, 1H), 6.16 (dd, J=2.5, 8.8 Hz, 1H), 5.77 (br, 1H), 5.23 (br, 1H), 4.87 (q, J=6.6 Hz, 1H), 4.64 (d, J=5.2 Hz, 1H), 3.44-3.37 (m, 2H), 3.08-2.82 (m, 3H), 2.69-2.40 (m, 4H), 2.25-1.85 (m, 6H), 1.60-1.42 (m, 5H); MS: (ES) m/z calculated for C24H31Cl3N5O [M+H]+ 510.2. found 510.

reactant | 1-(1-(4-chloro-3-((R)-1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidin-4-yl)pyrrolidin-3-amine | 0.12 mmol, 0.056 g | ClC1=C(C=C(C=C1)N1CCC(CC1)N1CC(CC1)N)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl | C23H29Cl3N4
reactant | (trimethylsily)isocyanate | 0.13 mmol, 0.015 g | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 1-(1-(1-(4-chloro-3-((R)-1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidin-4-yl)pyrrolidin-3-yl)urea | 0.031 mmol, 0.016 g, 26% | ClC1=C(C=C(C=C1)N1CCC(CC1)N1CC(CC1)NC(=O)N)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl | C24H30Cl3N5O
